US06552188B2
Synthesis of N-[3-(3,4,5-trimethoxyphenyl)propyl]-N′-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperazine dimaleate
1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]-methyl]piperazine (57 mg) was dissolved in acetonitrile (4 mL), and to the solution 3-(3,4,5-trimethoxyphenyl)propyl methanesulfonate (50 mg), potassium iodide (35 mg) and potassium carbonate (46 mg) were added, and the mixture was stirred at 70° C. for 2 hours. Water was added to the reaction mixture to conduct extraction with chloroform. The resultant organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=20:1). Maleic acid was added to the resultant oil to produce a salt, thereby obtaining the title compound.

reactant | 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]-methyl]piperazine | 57 mg | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCNCC1 | C19H25N3O3
reactant | 3-(3,4,5-trimethoxyphenyl)propyl methanesulfonate | 50 mg | CS(=O)(=O)OCCCC1=CC(=C(C(=C1)OC)OC)OC | C13H20O6S
reactant | potassium iodide | 35 mg | [I-].[K+]
reactant | potassium carbonate | 46 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | Water | O | H2O
product | N-[3-(3,4,5-trimethoxyphenyl)propyl]-N′-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperazine dimaleate | C(\C=C/C(=O)O)(=O)O.C(\C=C/C(=O)O)(=O)O.COC=1C=C(C=C(C1OC)OC)CCCN1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C31H41N3O6.2C4H4O4/c1-35-26-17-22(18-27(36-2)30(26)39-5)8-7-11-33-12-14-34(15-13-33)21-23-9-10-32-25(16-23)24-19-28(37-3)31(40-6)29(20-24)38-4;2*5-3(6)1-2-4(7)8/h9-10,16-20H,7-8,11-15,21H2,1-6H3;2*1-2H,(H,5,6)(H,7,8)/b;2*2-1-
